US05726187
N-Carboxy-[1-butyl-4-piperidinylmethyl]-1,2,3,4,4a,9a-hexahydrocarbazole
1-Butyl-4-piperidinylmethanol (0.500 g 2.12 mmol) was dissolved in dry THF (3 ml) and treated with methyllithium (1.5M solution in diethyl ether) 2.16 ml, 2.33 mmol) with stirring under nitrogen. After 10 minutes, N-chlorocarbonyl-1,2,3,4,4a,9a-hexahydrocarbazole (0.630 g, 2.68 mmol) (Ref: WO 89/09217) in dry THF (5 ml) was added dropwise with stirring. After 48 hours, the reaction mixture was filtered and the filtrate evaporated under reduced pressure. The residue was purified by silica-gel chromatography, eluting with 2% MeOH/CHCl3 -3%MeOH/CHCl3 to give the title compound as a clear, colourless oil, which was converted to the oxalate salt, nap 187°-189° C.

reactant | 1-Butyl-4-piperidinylmethanol | 2.12 mmol, 0.500 g | C(CCC)N1CCC(CC1)CO | C10H21NO
reactant | methyllithium | 2.33 mmol, 1.5M, 2.16 ml | C[Li]
reactant | N-chlorocarbonyl-1,2,3,4,4a,9a-hexahydrocarbazole | 2.68 mmol, 0.630 g | ClC(=O)N1C2=CC=CC=C2C2CCCCC12 | C13H14ClNO
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | N-Carboxy-[1-butyl-4-piperidinylmethyl]-1,2,3,4,4a,9a-hexahydrocarbazole | C(=O)(O)N1C2=CC=CC=C2C2CCCC(C12)CC1CCN(CC1)CCCC | C23H34N2O2
